US07393858B2
(i) Benzyl 4-(acetyloxy)-3,3-dimethyl-1-oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate
A solution of 1-benzyl 4-ethyl piperidine-1,4-dicarboxylate (2.35 g) was dissolved in tetrahydrofuran (30 mL) and was cooled to −78° C. Lithium bis(trimethylsilyl)amide (9 mL, 1M) was added dropwise under nitrogen and the solution was stirred for 30 min at −20° C. The solution was re-cooled to −78° C. and 1,1-dimethyl-2-oxoethyl acetate (1.17 g) in tetrahydrofuran (5 mL) was added and the mixture was stirred for 30 min. The mixture was quenched (NaHCO3, 30 mL) and the mixture was extracted with ethyl acetate (2×50 mL). The extracts were combined, washed with brine, dried (MgSO4) and were concentrated in vacuo. The crude product was purified by chromatography on silica using 25-75% ethyl acetate in iso-hexane as eluant to afford the product (1.4 g).

reactant | 1-benzyl 4-ethyl piperidine-1,4-dicarboxylate | 2.35 g | N1(CCC(CC1)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C16H21NO4
reactant | Lithium bis(trimethylsilyl)amide | 1M, 9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1,1-dimethyl-2-oxoethyl acetate | 1.17 g | C(C)(=O)OC(C=O)(C)C | C6H10O3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Benzyl 4-(acetyloxy)-3,3-dimethyl-1-oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate | 1.4 g | C(C)(=O)OC1C(OC(C12CCN(CC2)C(=O)OCC2=CC=CC=C2)=O)(C)C | C20H25NO6
